US05324451
4'-Acetoxybiphenyl-4-carboxylic acid (5.80 g) was converted to an acid chloride using thionyl chloride, and the acid chloride was reacted with (S)-2-methyloctanol. The reaction mixture was extracted with diethyl ether, and the ethereal layer was thoroughly dried. Benzylamine was added thereto in small portions at room temperature. Hydrochloric acid was further added thereto, and the mixture was washed with water. The solvent was removed from the reaction mixture by distillation, and the resulting crude product was decolored by passing through a silica gel column (solvent: n-hexane-ethyl acetate mixture) and recrystallized from n-hexane to obtain 6.2 g of (S)-2-methyloctyl 4'-hydroxybiphenyl-4-carboxylate as white crystals having a melting point of 89° C.

reactant | 4'-Acetoxybiphenyl-4-carboxylic acid | 5.80 g | C(C)(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C15H12O4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | (S)-2-methyloctanol | C[C@H](CO)CCCCCC | C9H20O
product | (S)-2-methyloctyl 4'-hydroxybiphenyl-4-carboxylate | 6.2 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OC[C@H](CCCCCC)C | C22H28O3
